US06930120B2
2-(Benzo[1,3]dioxol-5-yloxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid
The title compound was prepared from 2-(benzo[1,3]dioxol-5-yloxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl]-ethyl ester using the procedure of Example 78. 1H NMR (400 MHz, CDCl3) δ 7.17 (d, 2H, J=8.60 Hz), 6.79 (d, 2H, J=8.60 Hz), 6.65 (d, 1H, J=8.21 Hz), 6.47 (d, 1H, J=2.35 Hz), 6.37 (dd, 1H, J=8.21 Hz, J=2.35 Hz), 5.92 (d, 2H, J=0.78 Hz), 4.14 (t, 2H, J=6.25 Hz), 3.19 (d, 1H, J=14.08 Hz), 3.07 (d, 1H, J=14.08 Hz), 2.98 (t, 2H, J=6.25 Hz), 2.31 (s, 3H), 2.17-2.08 (m, 2H), 1.62-1.35 (m, 8H), 1.34 (s, 3H), 1.31 (s, 3H); MS (ES+) calcd for C30H35NO7: Found m/e 522.3 (M+1, 100%).

reactant | 2-(benzo[1,3]dioxol-5-yloxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC2=C(OCO2)C=C1)=O | C19H20O6
reactant | toluene-4-sulfonic acid 2-[5-methyl-2-(1-methylcyclohexyl)oxazol-4-yl]-ethyl ester | CC1=C(N=C(O1)C1(CCCCC1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO4S
product | 2-(Benzo[1,3]dioxol-5-yloxy)-2-methyl-3-(4-{2-[5-methyl-2-(1-methyl-cyclohexyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid | O1COC2=C1C=CC(=C2)OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2(CCCCC2)C)C | C30H35NO7
